US07662972B2
Step 2: Production of 3-(4-amino-3-methylphenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole
In a solution of 1.23 g of 5-(3,5-dichlorophenyl)-3-(3-methyl-4-nitrophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole in 10 ml of ethyl acetate, 5.0 ml of water, 5.0 ml of acetic acid and 0.66 g of reduced iron were added and stirred at 100° C. for 2 hours. After the completion of the reaction, the reaction mixture was filtered through Celite, 20 ml of water was added in the filtrate, extracted with ethyl acetate (20 ml×2). The organic phases together were washed with 10 ml of saturated sodium hydrogen carbonate aqueous solution, and then with 10 ml of water, thereafter dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 1.05 g of crude aimed product as red-brown oily substance. The resulting product was used as such without purification for the next step.

reactant | 5-(3,5-dichlorophenyl)-3-(3-methyl-4-nitrophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 1.23 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(F)(F)F | C17H11Cl2F3N2O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5.0 ml | O | H2O
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 3-(4-amino-3-methylphenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 1.05 g | NC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C | C17H13Cl2F3N2O
